US06235742B1
5-(4-hydroxybenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one
60% w/w Hydrobromic acid (20 ml) was added to 5-(4-methoxybenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one (630 mg) and the mixture stirred at 130° C. for 90 minutes. On cooling, the reaction was neutralized with saturated aqueous sodium carbonate solution and partitioned between dichloromethane (40 ml) and water (40 ml). The aqueous layer was further extracted with dichloromethane (100 ml), the combined organic layers dried (MgSO4), filtered and evaporated under reduced pressure. Crystallisation from ethyl acetate gave the title compound (75 mg), m.p.260° C.

reactant | 5-(4-methoxybenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 630 mg | COC1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C17H20N4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | Hydrobromic acid | 20 ml | Br | BrH
product | 5-(4-hydroxybenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 75 mg | OC1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C16H18N4O2
